US06387919B1
4-[N′-(2-Oxo-2,5,6,7-tetrahydro-1H-pyrrolo[2,3-f]indol-3-ylidene)-hydrazino]-benzenesulfonamide hydrobromide (Z-isomer)
A solution of 0.10 9 (0.44 mmol) of 5-acetyl-1,5,6,7-tetrahydro-pyrrolo[2,3-f]indole-2,3-dione in 3 mL of conc. HBr was heated to 100° C. for 18 h. The mixture was cooled to ambient temperature, diluted with 10 mL of water and filtered. The filtrate was concentrated in vacuo and added to a solution of 0.05 g (0.2 mmol) 4-sulfonamidophenylhydrazine hydrochloride in 5 mL of EtOH. The mixture was heated to 80° C. for 1 h and cooled to ambient temperature. The resulting solid was collected by vacuum filtration, washed with water and dried in a vacuum oven at 70° C. to afford the title compound as a tan solid (0.026 g, 17%): mp>250° C.; 1H NMR (DMSO-d6): δ 3.17 (t, J=7.8 Hz, 2H), 3.69 (t, J=7.8 Hz, 2H), 6.96 (s, 1H), 7.25 (s, 2H), 7.52 (s, 1H), 7.57 (d, J=8.8 Hz, 2H), 7.77 (d, J=8.8 Hz, 2H), 10.65 (bs, 2H), 11.24 (s, 1H), 12.73 (s, 1H); APCI−MS: m/z 356 (M−H)−. Anal. Calcd for C16H15N5O3S.0.9 HBr.0.5 H2O: C, 43.75; H, 3.88; N, 15.94; S, 7.30. Found: C, 44.01; H, 4.14; N, 15.70; S, 7.12.

reactant | 5-acetyl-1,5,6,7-tetrahydro-pyrrolo[2,3-f]indole-2,3-dione | C(C)(=O)N1CCC=2C=C3C(=CC12)C(C(N3)=O)=O | C12H10N2O3
reactant | 4-sulfonamidophenylhydrazine hydrochloride | 0.2 mmol, 0.05 g | C1=CC(=CC=C1NN)S(=O)(=O)N.Cl
reactant | HBr | 3 mL | Br | BrH
solvent | water | 10 mL | O | H2O
solvent | EtOH | 5 mL | CCO | C2H6O
product | 4-[N′-(2-Oxo-2,5,6,7-tetrahydro-1H-pyrrolo[2,3-f]indol-3-ylidene)-hydrazino]-benzenesulfonamide hydrobromide | 0.026 g, 17% | Br.O=C1C(C=2C(=CC=3CCNC3C2)N1)=NNC1=CC=C(C=C1)S(=O)(=O)N | InChI=1S/C16H15N5O3S.BrH/c17-25(23,24)11-3-1-10(2-4-11)20-21-15-12-8-13-9(5-6-18-13)7-14(12)19-16(15)22;/h1-4,7-8,18,20H,5-6H2,(H2,17,23,24)(H,19,21,22);1H
